US07452894B2
Methyl 3-(2-amino-6-(2-furyl)-9H-purine-9-yl)propionate (Example 151)
A solution of 6-(2-furyl)-1H-purine-2-amine (0.70 g, 3.48 mmol) and K2CO3 (0.48 g, 3.48 mmol) in DMF (20 mL) was treated with methyl acrylate (3.3 g, 38.3 mmol), stirred for 40 h, diluted with EtOAc, filtered to remove polymeric acrylate, washed with water, dried (MgSO4), concentrated in vacuo and purified by chromatography [SiO2: EtOAc-heptane, (4:1)] to give the title compound (114 mg, 11%) as a white solid.

reactant | 6-(2-furyl)-1H-purine-2-amine | 3.48 mmol, 0.70 g | O1C(=CC=C1)C1=C2N=CN=C2N=C(N1)N | C9H7N5O
reactant | K2CO3 | 3.48 mmol, 0.48 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl acrylate | 38.3 mmol, 3.3 g | C(C=C)(=O)OC | C4H6O2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Methyl 3-(2-amino-6-(2-furyl)-9H-purine-9-yl)propionate | 114 mg, 11% | NC1=NC(=C2N=CN(C2=N1)CCC(=O)OC)C=1OC=CC1 | C13H13N5O3
